US07435823B2
Preparation of 4-[2-(4-methyl-piperazin-1-yl)ethyl]aniline
4-(4-Methylpiperazin-1-yl)carbonylmethylaniline (596 mg, 2.55 mmol) was treated in anhydrous THF (20 mL) under nitrogen with lithium aluminum hydride (291 mg, 2.67 mmol) overnight. The reaction was quenched with water (3×0.29 mL), 15% sodium hydroxide (3×0.29 mL) and again water (3×0.29 mL). The resulting precipitate was removed by filtration. Evaporation of the filtrate afforded the title compound as an orange oil, 380 mg.

reactant | 4-(4-Methylpiperazin-1-yl)carbonylmethylaniline | 2.55 mmol, 596 mg | CN1CCN(CC1)C(=O)CC1=CC=C(N)C=C1 | C13H19N3O
reactant | lithium aluminum hydride | 2.67 mmol, 291 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-[2-(4-methyl-piperazin-1-yl)ethyl]aniline | CN1CCN(CC1)CCC1=CC=C(N)C=C1 | C13H21N3
